Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
Bone marrow biopsy ___

 
History of Present Illness:
___ yo man with a history of CLL who presented to the ED with 48 
hours of RLQ abdominal/flank pain. Initially intermittant, but 
became constant, described as pressure like. this is worse with 
movement, better with massage. BM's make no difference, he has 
had them normally, no blood, mucus, melena, diarrhea, 
constipation. He also had chills, a few days ago. He notes about 
1 week ago 'cold symptoms' started, they are improving (seen in 
HCA ___ viral process). He continues to have a 
productive cough (green to white sputum) with SOB requiring 
albuterol use. Pain ___ in ED VS T 97.6 HR 66 BP 105/73 RR 16 
Sat 98% RA. He received 8mg iv morphine with improvement to 
___. Also got 1L NS.  
.
ROS: He notes 7lb wt loss in 1 month which he attributes to not 
exercising regularly, due to fatigue, night sweats for 1 month, 
sore throat recently with cold symptoms, HA with cough only for 
4 days, mild nausea. No fevers, chills as above, no visual 
changes, chest pain, palpitations, vomitting, hematuria, 
dysuria, muscle or joint aches, rash, ___ or joint swelling, 
bleeding or bruising.
 
Past Medical History:
CLL: presented initially with abdominal pain, s/p 6 cycles of 
FCR finished in ___ with no disease recurrance until now  
allergic rhinitis  
hernia repair 
 
Social History:
___
Family History:
No family history of cancer. He has a brother with a heart 
murmur. His mother is alive and his father died of an unclear 
throat problem. 
 
Physical Exam:
V: T 97.3 P 66 BP 113/76 R 20 sat: 96%RA  
Gen: NAD  
Lymph: neck with bilat posterior cervical chain LAD, B axilla 
with LAD, no epitrochlear LAD, B inguinal LAD  
HEENT: OP clear, MMM, PERRLA  
Resp: diffuse rhonchi with expiratory wheezes on left, no rales. 
 
CV: RRR nl s1s2 no MGR  
Abd: Soft , slightly TTP RLQ>LLQ without rebound or guarding, + 
BS no organomegaly  
Ext: No edema  
Neuro: CN ___ intact. Strength ___ UE and ___, sensation intact 
to light touch, DTR's 2+ bilat patella, biceps, triceps, 
brachioradialis  
 
Pertinent Results:
Labs on Admission:
___ 10:30PM BLOOD WBC-23.5* RBC-4.05* Hgb-12.0* Hct-35.3* 
MCV-87 MCH-29.6 MCHC-33.9 RDW-13.0 Plt ___
___ 10:30PM BLOOD Neuts-17* Bands-0 Lymphs-78* Monos-1* 
Eos-0 Baso-0 Atyps-4* ___ Myelos-0
___ 09:20AM BLOOD ___ PTT-33.1 ___
___ 10:30PM BLOOD Glucose-113* UreaN-14 Creat-1.0 Na-135 
K-4.1 Cl-101 HCO3-29 AnGap-9
___ 10:30PM BLOOD ALT-35 AST-22 LD(LDH)-199 AlkPhos-60 
TotBili-0.3
___ 09:20AM BLOOD Calcium-8.6 Phos-3.3 Mg-2.0
___ 10:30PM BLOOD UricAcd-3.1*
___ 10:45PM BLOOD Lactate-0.7
.
Labs on Discharge:
___ 05:45AM BLOOD WBC-11.0 RBC-3.72* Hgb-11.2* Hct-31.8* 
MCV-86 MCH-30.0 MCHC-35.1* RDW-13.3 Plt ___
___ 05:45AM BLOOD Glucose-92 UreaN-11 Creat-1.0 Na-143 
K-4.1 Cl-110* HCO3-26 AnGap-11
___ 05:55AM BLOOD ALT-37 AST-29 LD(LDH)-196 AlkPhos-57 
TotBili-0.2
___ 05:45AM BLOOD Calcium-7.9* Phos-3.3 Mg-2.2 UricAcd-3.0*
.
Urine Studies:
___ 12:45AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:45AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
.
Imaging:
CT Abdomen/Pelvis ___: 1. Significant interval disease 
progression with marked mesenteric, retroperitoneal, pericecal, 
inguinal adenopathy. 
2. No evidence of appendicitis, please note appendix was not 
well visualized.  However, there were no secondary signs of 
appendiceal inflammation.   
3. Unchanged hypoattenuating VI hepatic segment lesion with 
nodular 
peripheral enhancement, characteristics suggestive of a 
hemangioma. 
.
CXR ___: IMPRESSION: No evidence of pneumonia or change from 
previous study.
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with hx of CLL with apparent 
recurrence, with acute RLQ abdominal pain.  Hospital course by 
problem list:
  
1. ABDOMINAL PAIN:
Likely etiology is disease recurrance with bulkly 
lymphadenopathy seen on abdominal CT.  Appendicitis, renal 
calculi, infection seemed less likely given clinic picture and 
CT findings.  The patient was managed with IV morphine initially 
and then transitioned to PO Percocet.  His pain improved and he 
was not requiring pain medications at the time of discharge.  
  
2. CLL RECURRANCE
The patient had evidence of CLL recurrance with elevated WBCs 
and lymphadenopathy on exam and on CT scan.  He underwent a bone 
marrow biopsy on ___ and results were pending at the time of 
discharge.  He underwent chemotherapy with Pentostatin, Cytoxan 
and Rituximab on ___.  He tolerated this well.  He was 
started on Acyclovir and Bactrim for prophylaxis as well as 
Allopurinol to prevent tumor lysis.  He was dischargd with 
instruction to return to clinic on ___ for Neulasta.
 
Medications on Admission:
albuterol  
robitussinDM recently for cough  
claritinD prn  
 
Discharge Medications:
1. Dextromethorphan-Guaifenesin ___ mg/5 mL Syrup Sig: Five 
(5) ML PO Q6H (every 6 hours) as needed for cough.  
2. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation Q4H (every 4 hours) as needed for wheeze.  
3. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed: you should not drive while taking 
this medication.
Disp:*20 Tablet(s)* Refills:*0*
4. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 7 days.
Disp:*7 Tablet(s)* Refills:*0*
6. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q12H (every 
12 hours).
Disp:*120 Capsule(s)* Refills:*2*
7. Zofran 8 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic Lymphocytic Lymphoma

 
Discharge Condition:
afebrile, hemodynamically stable

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain and 
recurrent lymphoma.  You had a bone marrow biopsy on ___.  
You pain was controlled with medication.  You underwent 
treatment with chemotherapy on ___.

You were started on the following medications during this 
hospitalization:
Acyclovir 400mg by mouth twice a day
Bactrim SS 1 tablet by mouth once a day
Allopurinol ___ by mouth once a day for 7 days

You can take Percocet ___ tablets every 4 hours as needed for 
pain.  You should not drive while taking this medication.

You were scheduled for a Neulasta shot on ___ at 1:30 with 
___ on ___ 9.

You were scheduled to see Dr. ___ Dr. ___ on ___ at 
1:00pm.

You should call your doctor or return to the hospital with any 
fevers >100.4, chilss, night sweats, severe pain, shortness of 
breath, chest pain, nausea, vomitting, diarrhea, skin rashes or 
any other symptoms that concern you.
 
Followup Instructions:
___